US04110445
II. 2,5-Diimino-3-phenyloxazolidine
To a mixture of 3.75 g. of anilinoacetamide, 2.5 g. of potassium bicarbonate and 50 ml. of ethanol was added rapidly 2.7 g. of cyanogen bromide in 20 ml. of ethanol. The reaction mixture was heated to reflux. After heating overnight and cooling, a small amount of precipitate was in the flask. This was filtered and the ethanolic filtrate shown to be slightly acidic. The ethanol filtrate was concentrated down to dryness leaving a solid which was washed with ethanol. The yield of product, m.p. 117°-9° C., was 3.9 g. (88%). The mass spectrum of the product gives a parent ion at m/e 175. This product is used to prepare intermediate III.

reactant | anilinoacetamide | N(C1=CC=CC=C1)CC(=O)N | C8H10N2O
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | cyanogen bromide | N#CBr | CBrN
solvent | ethanol | C(C)O | C2H6O
product | 2,5-Diimino-3-phenyloxazolidine | N=C1OC(CN1C1=CC=CC=C1)=N | C9H9N3O
